US06884868B1
Dimethylformamide (123 l), 1-(4-methoxycarbonylphenyl)-3-(4-pentyloxyphenyl)propane-1,3-dione (24.5 kg) and ammonium formate (21.0 kg) were charged in 2000-liter reactor at room temperature and heated, and a reaction was carried out at the inner temperature of 100 to 105° C. for 5 hours. After completion of the reaction, the mixture was cooled down to room temperature, ethyl acetate (613 l) and water (613 l) were added, the mixture was stirred, and an ethyl acetate layer was separated, and then washed with 10% sodium chloride solution (613 l) and with 20% sodium chloride solution (613 l). The ethyl acetate layer was concentrated in vacuo to 125 l and then diluted with n-heptane (625 l) at the inner temperature of 40 to 45° C. to separate crystals of 1-amino-1-(4-methoxycarbonylphenyl)-3-oxo-3-(4-pentyloxyphenyl)-1-propene. The cyrstals were filtered at room temperature and washed with a mixture of n-heptane (104 l) and ethyl acetate (21 l). The crystals were dried overnight in vacuo and purified by suspending in a 70% aqueous acetone (158 l) to give 1-amino-1-(4-methoxycarbonylphenyl)-3-oxo-3-(4-pentyloxyphenyl)-1-propene (14.3 kg).

reactant | Dimethylformamide | 123 l | CN(C=O)C | C3H7NO
reactant | 1-(4-methoxycarbonylphenyl)-3-(4-pentyloxyphenyl)propane-1,3-dione | 24.5 kg | COC(=O)C1=CC=C(C=C1)C(CC(=O)C1=CC=C(C=C1)OCCCCC)=O | C22H24O5
reactant | ammonium formate | 21.0 kg | C(=O)[O-].[NH4+]
reactant | ethyl acetate | 613 l | C(C)(=O)OCC | C4H8O2
solvent | water | 613 l | O | H2O
product | 1-amino-1-(4-methoxycarbonylphenyl)-3-oxo-3-(4-pentyloxyphenyl)-1-propene | 14.3 kg | NC(=CC(C1=CC=C(C=C1)OCCCCC)=O)C1=CC=C(C=C1)C(=O)OC | C22H25NO4
